US07750003B2
3-[4-[4-(Cyanomethylsulfanylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-1,1-dimethyl-urea
3-[4-[4-(Carbamimidoylsulfanylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-1,1-dimethyl-urea (0.38 mmol) was dissolved in DMF (2 mL). This was treated with bromoacetonitrile (0.030 mL) and then the sodium hydroxide (61 mg) in water (1 mL) and stirred at RT for 15 minutes. The reaction mixture was concentrated in vacuo and the residue loaded onto a SCX-2 column, washed with methanol and the desired material removed with 7N ammonia in methanol. The desired material was isolated and used without further chromatography.

reactant | 3-[4-[4-(Carbamimidoylsulfanylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-1,1-dimethyl-urea | 0.38 mmol | C(N)(=N)SCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(N(C)C)=O | C20H27N7O2S
reactant | bromoacetonitrile | 0.030 mL | BrCC#N | C2H2BrN
reactant | sodium hydroxide | 61 mg | [OH-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
product | 3-[4-[4-(Cyanomethylsulfanylmethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-1,1-dimethyl-urea | C(#N)CSCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(N(C)C)=O | C21H26N6O2S
